US08008279B2
tert-Butyl 6-(2-(dimethylamino)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (304 mg, 0.85 mmol) was added to methanolic HCl (20 ml, reagent 10) at 0° C. under air. The resulting solution was stirred at room temperature for 19 hours. The solvent was removed under reduced pressure to afford N,N-dimethyl-2-(2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yloxy)ethanamine (205 mg, 93%) as a yellow solid.

reactant | tert-Butyl 6-(2-(dimethylamino)ethoxy)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 0.85 mmol, 304 mg | CN(CCOC1=CC=CC=2C3=C(NC12)CCN(C3)C(=O)OC(C)(C)C)C | C20H29N3O3
solvent | HCl | 20 ml | Cl | ClH
product | N,N-dimethyl-2-(2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yloxy)ethanamine | 205 mg, 93% | CN(CCOC1=CC=CC=2C3=C(NC12)CCNC3)C | C15H21N3O
